US08865736B2
4-Bromomethyl-2-(4-methoxy-phenyl)-thiazole
To a solution of [2-(4-Methoxy-phenyl)-thiazol-4-yl]-methanol (0.12 g, 0.50 mmol) in 3 ml of toluene was added PBr3 (0.078 ml, 0.813 mmol) and the reaction mixture was heated at 120° C. for 20 min under nitrogen atmosphere. After the completion of the reaction mixture (TLC monitoring), water (25 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated to get the desired product (0.13 g, 84%).

reactant | [2-(4-Methoxy-phenyl)-thiazol-4-yl]-methanol | 0.50 mmol, 0.12 g | COC1=CC=C(C=C1)C=1SC=C(N1)CO | C11H11NO2S
reactant | PBr3 | 0.813 mmol, 0.078 ml | P(Br)(Br)Br | Br3P
reactant | water | 25 mL | O | H2O
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Bromomethyl-2-(4-methoxy-phenyl)-thiazole | 0.13 g, 84% | BrCC=1N=C(SC1)C1=CC=C(C=C1)OC | C11H10BrNOS
